US06713471B1
3-(1-methyl-3-indolyl)-1-propyl methanesulfonate was prepared by following the general procedure of Example 43 for mesylation as a colorless oil (291 mg, 84%) from 3-(1-methyl-3-indolyl)-1-propanol (245 mg, 1.30 mmol) and methanesulfonyl chloride (223 mg, 1.94 mmol). 1H NMR (CDCl3, 300 MHz) δ2.15 (qu, 2H, J=7.0 Hz), 2.90 (t, 2H, J=7.0 Hz), 2.99 (s, 3H), 3.76 (s, 3H), 4.27 (t, 2H, J=6.2 Hz), 6.88 (s, 1H), 7.11 (dt, 1H, J=1.1, 6.9 Hz), 7.23 (dt, 1H, J=1.1, 7.0 Hz), 7.29 (d, 1H, J=8.5 Hz), 7.57 (d, 1H, J=8.1 Hz) ppm.

reactant | 3-(1-methyl-3-indolyl)-1-propanol | 1.30 mmol, 245 mg | CN1C=C(C2=CC=CC=C12)CCCO | C12H15NO
reactant | methanesulfonyl chloride | 1.94 mmol, 223 mg | CS(=O)(=O)Cl | CH3ClO2S
product | 3-(1-methyl-3-indolyl)-1-propyl methanesulfonate | CS(=O)(=O)OCCCC1=CN(C2=CC=CC=C12)C | C13H17NO3S
